* Subcircuit MC1445L
.subckt MC1445L net-_d1-pad2_ net-_q4-pad2_ net-_q1-pad2_ net-_q7-pad2_ net-_q5-pad2_ net-_q11-pad3_ net-_q10-pad3_ net-_q10-pad1_ net-_r13-pad2_ 
* e:\fossee\esim\library\subcircuitlibrary\mc1445l\mc1445l.cir
.include NPN.lib
.include D.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q4-pad3_ Q2N2222
r4  net-_q1-pad3_ net-_q2-pad1_ 0.02k
r5  net-_q2-pad1_ net-_q4-pad3_ 0.02k
r1  net-_q10-pad1_ net-_d1-pad1_ 2.5k
r2  net-_d1-pad1_ net-_q2-pad2_ 7.8k
r3  net-_q2-pad2_ net-_r13-pad2_ 3.8k
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q6 net-_q6-pad1_ net-_d2-pad1_ net-_q2-pad3_ Q2N2222
q3 net-_q2-pad3_ net-_d2-pad1_ net-_q3-pad3_ Q2N2222
r6  net-_q3-pad3_ net-_r13-pad2_ 0.19k
q5 net-_q1-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2222
q7 net-_q4-pad1_ net-_q7-pad2_ net-_q7-pad3_ Q2N2222
r10  net-_q6-pad1_ net-_q7-pad3_ 0.02k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r7  net-_r11-pad1_ net-_q1-pad1_ 1k
r8  net-_q5-pad3_ net-_q6-pad1_ 0.02k
r11  net-_r11-pad1_ net-_q4-pad1_ 1k
r9  net-_q10-pad1_ net-_r11-pad1_ 0.85k
r12  net-_q10-pad1_ net-_d2-pad1_ 15k
r13  net-_d2-pad1_ net-_r13-pad2_ 4k
q8 net-_q10-pad1_ net-_q1-pad1_ net-_q10-pad2_ Q2N2222
r14  net-_q10-pad2_ net-_d2-pad1_ 9k
q9 net-_q10-pad1_ net-_q4-pad1_ net-_q11-pad2_ Q2N2222
r15  net-_q11-pad2_ net-_d2-pad1_ 9k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
r16  net-_d2-pad2_ net-_r13-pad2_ 0.5k
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_q10-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
r17  net-_q10-pad3_ net-_r13-pad2_ 5k
r18  net-_q11-pad3_ net-_r13-pad2_ 5k
* Control Statements

.ends MC1445L